US08895776B2
Step A: Preparation of 3,5-Difluoro-N-phenylaniline
In a 5 mL microwave reaction vial was placed aniline (0.298 g. 3.20 mmol) and 1,3-difluoro-5-iodobenzene (0.768 g, 3.20 mmol) in toluene (3 mL). KOH (0.323 g, 5.76 mmol) in water (650 μL) and N,N,N-trimethylhexadecan-1-aminium bromide (6.30 mg, 0.017 mmol) were added to the vial with stirring. After the reaction was warmed to 90° C., bis[tri(t-butylphosphine]palladium[0] (0.016 g, 0.032 mmol) was added and the reaction was stirred at 150° C. for 4 h and then 160° C. for 2 h. The mixture was diluted with water and brine, and extracted with toluene. The toluene extract was subsequently washed with water, dried over MgSO4 and concentrated. The residue was purified by flash column chromatography to provide the title compound as a brown oil (0.132 g). LCMS m/z=206.2 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 6.54 (tt, J=9.35, 2.27 Hz, 1H), 6.63 (dd, J=10.48, 2.15 Hz, 2H), 7.01 (dt, J=14.65, 1.14 Hz, 1H), 7.17 (dd, J=8.59, 1.01 Hz, 2H), 7.34 (t, J=7.83 Hz, 2H), 8.69 (s, 1H).

reactant | aniline | 3.20 mmol, 0.298 g | NC1=CC=CC=C1 | C6H7N
reactant | 1,3-difluoro-5-iodobenzene | 3.20 mmol, 0.768 g | FC1=CC(=CC(=C1)I)F | C6H3F2I
reactant | KOH | 5.76 mmol, 0.323 g | [OH-].[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 650 μL | O | H2O
catalyst | N,N,N-trimethylhexadecan-1-aminium bromide | 0.017 mmol, 6.30 mg | [Br-].C[N+](CCCCCCCCCCCCCCCC)(C)C
solvent | brine | [Cl-].[Na+].O
product | 3,5-Difluoro-N-phenylaniline | 0.132 g | FC=1C=C(NC2=CC=CC=C2)C=C(C1)F | C12H9F2N
